US07465726B2
{4-[4-(Benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-(1-hydroxymethylcyclopropyl)-methanone
To a suspension of benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride (230 mg, 0.50 mmol) in N,N-dimethylformamide (4 mL) were added N,N-diisopropylethylamine (0.7 mL, 4.0 mmol), 1-hydroxymethyl-cyclopropanecarboxylic acid (70 mg, 0.6 mmol) and 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (190 mg, 0.6 mmol). The resulting mixture was stirred at rt overnight. The mixture was diluted with water (30 mL), and the precipitate was collected by filtration and dried in vacuum, giving the title compound as brown solid. LC-MS (ES, Pos.): 447 [MH+]. 1H NMR (DMSO-d6, 400 MHz): δ=0.74 (s, 2H), 0.77 (s, 2H), 2.51 (m, 2H), 3.50 (d, J=5.9 Hz, 2H), 3.85 (m, 2H), 4.20 (m, 2H), 4.90 (br s, 1H), 6.44 (s, 1H), 6.84 (s, 1H), 7.88 (dd, J=8.9 Hz, 2.1 Hz, 1H), 8.04 (d, J=8.9 Hz, 1H), 8.34 (s, 1H), 8.92 (d, J=2.1 Hz, 1H), 9.24 (s, 1H), 9.62 (s, 1H), 12.02 (s, 1H).

reactant | benzothiazol-6-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride | 0.50 mmol, 230 mg | Cl.Cl.Cl.S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCNCC1
reactant | N,N-diisopropylethylamine | 4.0 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxymethyl-cyclopropanecarboxylic acid | 0.6 mmol, 70 mg | OCC1(CC1)C(=O)O | C5H8O3
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.6 mmol, 190 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | {4-[4-(Benzothiazol-6-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-(1-hydroxymethylcyclopropyl)-methanone | S1C=NC2=C1C=C(C=C2)NC=2C1=C(N=CN2)NC(=C1)C=1CCN(CC1)C(=O)C1(CC1)CO | C23H22N6O2S
